US08217028B2
EDCI (144 mg) and HOBT (104 mg) were added to a solution of 3-chloro-4-[(1-methylethyl)oxy]benzoic acid (D32) (150 mg) in DMF (5 mL) at RT. The resulting solution was stirred for 10 min. ethyl 3-{5-[(hydroxyamino)(imino)methyl]-1H-indol-2-yl}propanoate (D31) (193 mg) was added and the reaction mixture was stirred at RT for 1 hour. The reaction mixture was heated to 80° C. and stirred at that temperature for 6 hours. EtOAc (50 mL) was added and the organic solution was washed with water (50 mL), saturated aqueous sodium bicarbonate solution (50 mL), and water (50 mL). The organic fraction was dried over anhydrous magnesium sulfate. The dried solution was concentrated. The residue was recrystallized from ethanol to afford ethyl 3-[5-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-2-yl]propanoate (D33) (95 mg) as a light pink solid. MS (ES): C24H24ClN3O4 requires 453; found 454.0 (M+H+).

reactant | EDCI | 144 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 104 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-chloro-4-[(1-methylethyl)oxy]benzoic acid | 150 mg | ClC=1C=C(C(=O)O)C=CC1OC(C)C | C10H11ClO3
reactant | ethyl 3-{5-[(hydroxyamino)(imino)methyl]-1H-indol-2-yl}propanoate | 193 mg | ONC(C=1C=C2C=C(NC2=CC1)CCC(=O)OCC)=N | C14H17N3O3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | ethyl 3-[5-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-2-yl]propanoate | 95 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=C2C=C(NC2=CC1)CCC(=O)OCC | C24H24ClN3O4
